US05650510
A mixture of 5-benzyloxymethyl-2,2-dimethyl-1,3-dioxane (3.40 g, 14.4 mmol) and a few crystals of p-toluenesulfonic acid monohydrate in 100 mL of methanol was stirred at room temperature for 20 h. The methanol was removed in vacuo and the residual oil purified by column chromatography on silica gel (ethyl acetate) to give 2.25 g (80%) of 2-benzyloxymethyl-1,3-propanediol as a colorless, clear liquid.

reactant | 5-benzyloxymethyl-2,2-dimethyl-1,3-dioxane | 14.4 mmol, 3.40 g | C(C1=CC=CC=C1)OCC1COC(OC1)(C)C | C14H20O3
reactant | p-toluenesulfonic acid monohydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methanol | 100 mL | CO | CH4O
product | 2-benzyloxymethyl-1,3-propanediol | 2.25 g, 80% | C(C1=CC=CC=C1)OCC(CO)CO | C11H16O3
